US07619092B2
To 20 ml of tetrahydrofuran were added 1.34 g of magnesium and trace of iodine, and added dropwise thereto was a solution of 9.50 g of 2-bromotoluene in 45 ml of tetrahydrofuran, to prepare Grignard reagent. To the Grignard reagent was added dropwise a solution of 5.46 g of 4-methoxypyridine in 20 ml of tetrahydrofuran under nitrogen atmosphere at −60° C. or below. Subsequently, a solution of 10.24 g of chlorobenzyl formate in 50 ml of tetrahydrofuran was added dropwise thereto at −40° C. and the mixture was stirred for 3 hours. The temperature of the mixture was raised to room temperature and added thereto was 120 ml of a 5% aqueous citric acid solution. The mixture was extracted with ethyl acetate and washed with saturated brine. The organic layer was dried and concentrated under reduced pressure. The residue was crystallized with diisopropyl ether, and the crystals were collected by filtration, to give 11.15 g of 1-benzyloxycarbonyl-2-(2-methylphenyl)-4-oxo-3,4-dihydro-2H-pyridine.

reactant | magnesium | 1.34 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 2-bromotoluene | 9.50 g | BrC1=C(C=CC=C1)C | C7H7Br
reactant | 4-methoxypyridine | 5.46 g | COC1=CC=NC=C1 | C6H7NO
reactant | chlorobenzyl formate | 10.24 g | C(=O)OC(C1=CC=CC=C1)Cl | C8H7ClO2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-benzyloxycarbonyl-2-(2-methylphenyl)-4-oxo-3,4-dihydro-2H-pyridine | 11.15 g | C(C1=CC=CC=C1)OC(=O)N1C(CC(C=C1)=O)C1=C(C=CC=C1)C | C20H19NO3
